US07737166B2
N-[[2-(4-Methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methyl]methylamine (I-163)
[2-(4-Methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methanol (0.50 g, 2.28 mmol) was dissolved in dichloromethane (10 ml), then triethylamine (0.36 ml, 2.60 mmol) was added. With cooling with ice, methanesulfonyl chloride (0.20 ml, 2.58 mmol) was added, followed by stirring at room temperature for 2 hours. The reaction liquid was concentrated, ethyl acetate was added, followed by washing. After drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was dissolved in tetrahydrofuran (25 ml), then aqueous methylamine solution (40%, 5 ml) was added. After stirring at room temperature for 3 days, the reaction liquid was concentrated. This was diluted with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain a pale yellow oil (0.44 g, 83%).

reactant | [2-(4-Methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methanol | 2.28 mmol, 0.50 g | COC1=CC=C(CN2N=CN=C2CO)C=C1 | C11H13N3O2
reactant | triethylamine | 2.60 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.58 mmol, 0.20 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[[2-(4-Methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methyl]methylamine | 0.44 g, 83% | COC1=CC=C(CN2N=CN=C2CNC)C=C1 | C12H16N4O
